US05344830
Step A: 2-(2-Hydroxyethyl)pyrazine
A mixture of 90.0 g (956 mmol) of 2-methylpyrazine and 6.4 g (212 mmol) of paraformaldehyde was heated in a stainless steel autoclave at 165° C. for 5 hours, The residue was distilled under iced aspirator pressure (ca. 10 mmHg) to yield 8.28 g (32%) of a light pink oil.

reactant | 2-methylpyrazine | 956 mmol, 90.0 g | CC1=NC=CN=C1 | C5H6N2
reactant | paraformaldehyde | 212 mmol, 6.4 g | C=O | CH2O
product | 2-(2-Hydroxyethyl)pyrazine | 8.28 g, 32% | OCCC1=NC=CN=C1 | C6H8N2O
